US07282588B2
4-chloro-5-methyl-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine
To a cold −78° C. solution of 4-chloro-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine (3.24 mmol, prepared as described in Tetrahedron Lett. 2004, 45, 2317-2319), in dry tetrahydrofuran (22 mL) was added 1.4M sec-BuLi in hexanes (7.12 mmol) dropwise over ˜5 min. After 30 min, methyliodide (10.5 mmol) was added. After 45 min, the reaction mixture was quenched with saturated aqueous ammonium chloride (25 mL) and diluted with ethyl acetate (25 mL). The extracts were dried over sodium sulfate, filtered, concentrated under reduced pressure and the residue was purified by silica gel chromatography (100% hexanes) to give the title product as a white solid (86%). ESMS [M+H]+: 323.2

reactant | 4-chloro-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine | 3.24 mmol | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | sec-BuLi | 1.4M | [Li]C(C)CC
reactant | methyliodide | 10.5 mmol | CI | CH3I
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
product | 4-chloro-5-methyl-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine | 86% | ClC1=C2C(=NC=C1C)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C17H27ClN2Si
